### PR TITLE
feat(ErdosProblems): 1141

### PR DESCRIPTION
**Pull request by danielchin**
Formalize Erdos Problem 1141: https://www.erdosproblems.com/1141

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1141.lean [hunk 1]
```diff
@@ -0,0 +1,47 @@
...
+- [erdosproblems.com/1141](https://www.erdosproblems.com/1141)
+- [A214583](https://oeis.org/A214583)
+- [Va99] Various, Some of Paul's favorite problems. Booklet produced for the conference "Paul Erdős
+  and his mathematics", Budapest, July 1999 (1999).
+-/
+
+open Nat Set
+
+namespace Erdos1141
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/1141.lean:32]: I'd suggest the following: extract the predicate on `n` as a definition, and add two test statements for e.g. 968 and 1722.

Comment (danielchin) [reply FormalConjectures/ErdosProblems/1141.lean:32]: Split out the property and added the two cases for 968 and 1722. Let me know if using `example` is the correct method for listing specific test cases in these files.

I left the two cases as `sorry` because they were failing to compile with `native_decide` and `decide` due to `maximum recursion depth has been reached`.

File: FormalConjectures/ErdosProblems/1141.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+/--
+The property that $n-k^2$ is prime for all $k$ with $(n,k)=1$ and $k^2 < n$.
+-/
+def erdos_1141_property (n : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1141.lean]:
```suggestion
def Erdos1141Prop (n : ℕ) : Prop :=
```

File: FormalConjectures/ErdosProblems/1141.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+    answer(sorry) ↔ Infinite { n | erdos_1141_property n } := by
+  sorry
+
+@[category research solved, AMS 11]
+example : ¬ erdos_1141_property 968 := by
+  sorry
+
+@[category research solved, AMS 11]
+example : erdos_1141_property 1722 := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1141.lean]: Can `decide` or `decide +native` do these if you provide a `DecidablePred Erdos1141Prop` instance based on the fact that `Erdos1141Prop n` is equivalent to `∀ k \le .sqrt (n - 1) → Coprime n k → (n - k ^ 2).Prime` (cf https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Sqrt.html#Nat.le_sqrt)?

File: FormalConjectures/ErdosProblems/1141.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1141.lean]: Done.

File: FormalConjectures/ErdosProblems/1141.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1141.lean]: I think I got what you were implying. Let me know if this implementation is what you were thinking of.

File: FormalConjectures/ErdosProblems/1141.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1141.lean:32]: Done.

**Review by YaelDillies — APPROVED** [review]
Great, thanks!

File: FormalConjectures/ErdosProblems/1141.lean (hunk 3 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1141.lean]: Perfect score for you :)
